US07674806B2
4-isobutyl-α-methylphenylacetamide (2 g; 9.7 mmol), prepared according the procedure described in WO 00/24710, is dissolved in a solution (2:1) toluene/trichloromethane (30 mL). 20% in toluene phosgene (15.5 mL, 30 mmol) is added and the resulting mixture is left stirring 12 h under inert atmosphere until the complete disappearance of the starting reagent. After solvents evaporation under reduced pressure, the crude is dissolved in ethyl acetate (20 mL), the organic phase is washed with a saturated solution of NaHCO3 (2×20 mL) and with a saturated solution of NaCl (2×15 mL), dried over Na2SO4 and evaporated under vacuum to give 2-(4-isobutylphenyl)propionitrile as colourless oil (1.45 g; 7.76 mmol). Yield 80%. 1H-NMR (CDCl3): δ 7.42 (d, 2H, J=7 Hz); 7.28 (d, 2H, J=7 Hz); 4.05 (q, 1H, J=8 Hz); 2.65 (d, 2H, J=8 Hz); 1.95 (m, 1H); 1.80 (d, 3H, J=8 Hz); 1.05 (d, 6H, J=8 Hz).

reactant | 4-isobutyl-α-methylphenylacetamide | 9.7 mmol, 2 g | C(C(C)C)C1=CC=C(C=C1)C(C(=O)N)C | C13H19NO
reactant | toluene phosgene | 30 mmol, 15.5 mL | C(=O)(Cl)Cl.C1(=CC=CC=C1)C
solvent | toluene trichloromethane | 30 mL | C1(=CC=CC=C1)C.ClC(Cl)Cl
product | 2-(4-isobutylphenyl)propionitrile | Yield 80% | C(C(C)C)C1=CC=C(C=C1)C(C#N)C | C13H17N
